US08242104B2
Methyl 2-cyano-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate (0.46 g, 1.7 mmol) was stirred with potassium carbonate (469 mg, 3.4 mmol), water (1.2 mL) and hydrogen peroxide (408 mg, 6 mmol) in DMSO (7 mL) for 4 hours. The mixture was diluted with 70 mL of water and extracted with ethyl acetate. Ethyl acetate solution was washed with water, 5% Na2S2O3, water, brine, dried over MgSO4 and concentrated under vacuum to give methyl 2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate (0.37 g).

reactant | Methyl 2-cyano-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | 1.7 mmol, 0.46 g | C(#N)C=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)OC)C1 | C14H11N3O3
reactant | potassium carbonate | 3.4 mmol, 469 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 6 mmol, 408 mg | OO | H2O2
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
solvent | water | 70 mL | O | H2O
solvent | water | 1.2 mL | O | H2O
product | methyl 2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | 0.37 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)OC)C1 | C14H13N3O4
